US20010006969A1
4-Diallylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine
In DMF was dissolved 1.50 g (6.8 mmol) of 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine, and then 1.56 g (16.1 mmol) of diallylamine was added dropwise to the resulting solution under ice cooling over 5 minutes. The reaction mixture was stirred at 0° C. for one hour and then allowed to resume room temperature, followed by stirring for one hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane= 1:15) to give 1.17 g (yield: 61.1%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine | 6.8 mmol, 1.50 g | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | diallylamine | 16.1 mmol, 1.56 g | C(C=C)NCC=C | C6H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Diallylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine | 1.17 g, yield: 61.1% | C(C=C)N(C=1C2=C(N=C(N1)Cl)C(=CS2)C)CC=C | C13H14ClN3S
